US06432881B1
Step c: 2-chloro-[(1-methylpyrazol-5-yl)oxymethyl]-4-methylsulfonyl benzoic acid
6.95 g (19 mmol) of methyl 2-chloro-[(1-methylpyrazol-5-yl)oxymethyl]-4-methylsulfonylbenzoate in a mixture of 30 ml of tetrahydrofurane and 30 ml of water are treated at room temperature with 0.93 g of lithium hydroxide for 12 h. The reaction mixture is adjusted to pH4 with 10% strength hydrochloric acid and extracted with methylene chloride. The organic phase is dried and freed from the solvent. Yield: 4.3 g; m.p. 197° C.

reactant | methyl 2-chloro-[(1-methylpyrazol-5-yl)oxymethyl]-4-methylsulfonylbenzoate | 19 mmol, 6.95 g | ClC1=C(C(=O)OC)C=CC(=C1COC1=CC=NN1C)S(=O)(=O)C | C14H15ClN2O5S
reactant | lithium hydroxide | 0.93 g | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 2-chloro-[(1-methylpyrazol-5-yl)oxymethyl]-4-methylsulfonyl benzoic acid | ClC1=C(C(=O)O)C=CC(=C1COC1=CC=NN1C)S(=O)(=O)C | C13H13ClN2O5S
